US08183264B2
3-Ethynyl-pyridin-2,6-diamine
To a solution of THF (100 mL) of 3-trimethylsilanylethynyl-pyridin-2,6-diamine (7.0 g) described in Manufacturing Example 4-2 was added tetrabutylammonium fluoride (1M THF solution, 17 mL) under ice cooling, which was stirred for 10 minutes at room temperature. Water was added to the reaction solution, which was then extracted with ethyl acetate 3 times. The extract was dried over sodium sulfate, then concentrated under a reduced pressure, and the residue was purified by silica gel chromatography (ethyl acetate) to obtain the titled compound (3.4 g).

reactant | THF | 100 mL | C1CCOC1 | C4H8O
reactant | 3-trimethylsilanylethynyl-pyridin-2,6-diamine | 7.0 g | C[Si](C)(C)C#CC=1C(=NC(=CC1)N)N | C10H15N3Si
reactant | tetrabutylammonium fluoride | 1M, 17 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | Water | O | H2O
product | 3-Ethynyl-pyridin-2,6-diamine | 3.4 g | C(#C)C=1C(=NC(=CC1)N)N | C7H7N3
